US09145380B2
2-(2-(4-(3-Hydroxy-3-methylbut-1-ynyl)phenyl)ethylsulfonamido)benzenesulfonamide
The title compound was synthesized as described for Example 179 a) in 42% yield, starting from 2-[2-(4-bromophenyl)ethylsulfonylamino]benzenesulfonamide and 2-methyl-3-butyn-2-ol.

reactant | 2-[2-(4-bromophenyl)ethylsulfonylamino]benzenesulfonamide | BrC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N | C14H15BrN2O4S2
reactant | 2-methyl-3-butyn-2-ol | CC(C)(C#C)O | C5H8O
product | 2-(2-(4-(3-Hydroxy-3-methylbut-1-ynyl)phenyl)ethylsulfonamido)benzenesulfonamide | 42% yield | OC(C#CC1=CC=C(C=C1)CCS(=O)(=O)NC1=C(C=CC=C1)S(=O)(=O)N)(C)C | C19H22N2O5S2
